US08957080B2
A solution of (R)-tert-butyl 3-(4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carboxylate (2.0 g, 4.32 mmol) in IPA saturated with NH3 (20 mL) was stirred at 100° C. for 12 h in a 100 mL of autoclave. The organic layer was concentrated and purified on silica gel chromatography (eluted with PE:EtOAc=1:1) to afford (R)-tert-butyl 3-(4-amino-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carboxylate (1.5 g, 78% in yield).

reactant | (R)-tert-butyl 3-(4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carboxylate | 4.32 mmol, 2.0 g | ClC=1C2=C(N=CN1)N(C=C2I)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C16H20ClIN4O2
reactant | NH3 | 20 mL | N | H3N
solvent | IPA | CC(C)O | C3H8O
product | (R)-tert-butyl 3-(4-amino-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carboxylate | 1.5 g, 78% | NC=1C2=C(N=CN1)N(C=C2I)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C16H22IN5O2
